US04150156
Benzhydryl 7-(1-hydroxyethyl)-3-methylene-cepham-4-carboxylate (4.6 g.) is dissolved in 500 ml. of CH2Cl2, cooled to -78° and treated with a stream of ozone in oxygen until a blue color persists in the reaction mixture. After 1 minute at -78° the reaction mixture is treated with 5 ml. of dimethyl sulfide and the reaction mixture is allowed to stand at -78° for 20 min. followed by 1 hour at 25° C. The solvent is removed under reduced pressure to give the crude benzhydryl 7-(1-hydroxyethyl)-3-hydroxy-3-cephem-4carboxylate.

reactant | Benzhydryl 7-(1-hydroxyethyl)-3-methylene-cepham-4-carboxylate | 4.6 g | OC(C)C1[C@@H]2N(C(C(CS2)=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H23NO4S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | CSC | C2H6S
solvent | oxygen | O=O | O2
product | benzhydryl 7-(1-hydroxyethyl)-3-hydroxy-3-cephem-4carboxylate | OC(C)C1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H21NO5S
